US06380230B1
A) 4-Cyclohexyl-1-(2,5-dimethoxy-4-chlorophenyl)butan1-one
3.77 g of 4-cyclohexanebutyryl chloride dissolved in 10 ml of CCl4 are added to a suspension of 2.8 g of AlCl3 in 20 ml of CCl4 at +4° C. under nitrogen. 5.2 g of 2,5-dimethoxychlorobenzene in 10 ml of CCl4 are added dropwise and the mixture is then left stirring for 3 hours at RT. The reaction medium is hydrolysed with dilute HCl solution, the phases are then separated by settling and the organic phase is extracted with DCM. After drying over MgSO4, the solution is evaporated and the residue is then purified by chromatography on silica, eluting with a heptane/DCM mixture (60/40; v/v) and then with pure DCM. 3.37 g of the expected compound are obtained: m.p.=80-81° C.

reactant | 4-cyclohexanebutyryl chloride | 3.77 g | C1CCC(CC1)CCCC(=O)Cl | C10H17ClO
reactant | AlCl3 | 2.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,5-dimethoxychlorobenzene | 5.2 g | COC1=C(C=C(C=C1)OC)Cl | C8H9ClO2
reactant | HCl | Cl | ClH
solvent | CCl4 | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Cyclohexyl-1-(2,5-dimethoxy-4-chlorophenyl)butan1-one | 3.37 g | C1(CCCCC1)CCCC(=O)C1=C(C=C(C(=C1)OC)Cl)OC | C18H25ClO3
